US09326987B2
4-(5-{[(2R,6S)-2,6-Dimethyl-4-morpholinyl]methyl}-1,3,4-oxadiazol-2-yl)-6-(1H-indol-4-yl)-1H-indazole
(2R,6S)-2,6-Dimethylmorpholine (12.57 mg, 0.11 mmol) and 4-[5-(chloromethyl)-1,3,4-oxadiazol-2-yl]-6-(1H-indol-4-yl)-1-(phenylsulfonyl)-1H-indazole (51 mg, 0.104 mmol) were dissolved in acetonitrile (0.5 ml) and N,N-diisopropylethylamine (0.0262 ml, 0.15 mmol) was added, followed by sodium iodide (14.99 mg, 0.1 mmol). The solution was stirred at 70° C. for 18 h and blown to dryness under a stream of nitrogen. Isopropanol (0.5 ml) was added followed by 2M sodium hydroxide (0.5 ml) and stirred for 18 h when the mixture was neutralised and the solvent removed under a stream of nitrogen. The crude product was dissolved in dimethylsulphoxide (0.5 ml) and purified by Mass Directed Automated Preparative HPLC (Method F) and the solvent was evaporated in vacuo using Genevac to give the title compound (4 mg).

reactant | (2R,6S)-2,6-Dimethylmorpholine | 0.11 mmol, 12.57 mg | C[C@@H]1CNC[C@@H](O1)C | C6H13NO
reactant | 4-[5-(chloromethyl)-1,3,4-oxadiazol-2-yl]-6-(1H-indol-4-yl)-1-(phenylsulfonyl)-1H-indazole | 0.104 mmol, 51 mg | ClCC1=NN=C(O1)C1=C2C=NN(C2=CC(=C1)C1=C2C=CNC2=CC=C1)S(=O)(=O)C1=CC=CC=C1 | C24H16ClN5O3S
reactant | N,N-diisopropylethylamine | 0.15 mmol, 0.0262 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | sodium iodide | 0.1 mmol, 14.99 mg | [I-].[Na+]
reactant | sodium hydroxide | 2M, 0.5 ml | [OH-].[Na+]
solvent | acetonitrile | 0.5 ml | C(C)#N | C2H3N
solvent | Isopropanol | 0.5 ml | C(C)(C)O | C3H8O
product | 4-(5-{[(2R,6S)-2,6-Dimethyl-4-morpholinyl]methyl}-1,3,4-oxadiazol-2-yl)-6-(1H-indol-4-yl)-1H-indazole | 4 mg | C[C@@H]1CN(C[C@@H](O1)C)CC1=NN=C(O1)C1=C2C=NNC2=CC(=C1)C1=C2C=CNC2=CC=C1 | C24H24N6O2
